US08314091B2
D: 4-Methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoic Acid
Methyl 4-methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoate (216 mg, 0.43 mmol) was dissolved in methanol (20 mL) at room temperature. Lithium hydroxide (51.5 mg, 2.15 mmol) was added, followed by water (1 mL). The mixture was stirred at 45° C. overnight and concentrated under vacuum. The residue was dissolved in water (15 mL) and brought to pH ˜3 with 1M aqueous hydrochloric acid. The mixture was extracted with ethyl acetate (×2) and with dichloromethane (×2). The combined organic phases were dried on magnesium sulfate, filtered and concentrated under vacuum. The residue was submitted to silica chromatography (0-10% methanol in dichloromethane as eluant) to give the title compound (78 mg). MS (ESI) m/z 489.1 [M+H]+

reactant | Methyl 4-methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoate | 0.43 mmol, 216 mg | COC1=C(C=C(C(=O)OC)C=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C28H30N4O5
reactant | Lithium hydroxide | 2.15 mmol, 51.5 mg | [OH-].[Li+]
reactant | water | 1 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 4-Methoxy-3-((4-(4-(3-phenylureido)benzoyl)piperazin-1-yl)methyl)benzoic Acid | 78 mg | COC1=C(C=C(C(=O)O)C=C1)CN1CCN(CC1)C(C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)=O | C27H28N4O5
